US05807927
87.0 g (0.762 mol) of 1-methylhydantoin and 48.55 g (0.915 mol) of acrylonitrile are introduced into an apparatus at an internal temperature of 67° C., and 8 ml of 1 molar sodium hydroxide solution are added dropwise over the course of 12 minutes, during which an exothermic reaction occurs and the temperature rises to 75° C. The reaction mixture is then stirred for 1 hour and 48 minutes at 75° C.-103° C. and then neutralized with 0.92 g of 32% hydrochloric acid. The reaction product is purified by vacuum distillation, giving 94.7 g (74.3% of theory) of crystalline 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionitrile, whose melting point is 53° C.

reactant | 1-methylhydantoin | 0.762 mol, 87.0 g | CN1C(=O)NC(=O)C1 | C4H6N2O2
reactant | acrylonitrile | 0.915 mol, 48.55 g | C(C=C)#N | C3H3N
reactant | sodium hydroxide | 1 molar, 8 ml | [OH-].[Na+]
catalyst | hydrochloric acid | 0.92 g | Cl | ClH
product | 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionitrile | 94.7 g, 74.3% | CN1C(N(CC1=O)CCC#N)=O | C7H9N3O2
